US04596816
A mixture of α,β-dibromobutyrophenone (30.6 g) and formamide (50 ml) was heated on an oil bath at 120° C.-130° C. for an hour. Then, saturated aqueous sodium hydrogen carbonate was added and the mixture was extracted with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the oily residue was further distilled under reduced pressure to give an oil of 5-(2-formyloxyethyl)-4-phenyloxazole, yield 12.9 g (59.4%), b.p. 136°-137° C./0.4 mmHg.

reactant | α,β-dibromobutyrophenone | 30.6 g | BrC(C(=O)C1=CC=CC=C1)C(C)Br | C10H10Br2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | formamide | 50 ml | C(=O)N | CH3NO
product | 5-(2-formyloxyethyl)-4-phenyloxazole | C(=O)OCCC1=C(N=CO1)C1=CC=CC=C1 | C12H11NO3
